US06906089B2
4-(4-Benzo[1,3]dioxol-5-yl-5-pyridin-2-yl-1H-imidazol-2-yl)benzoyl chloride
4-(4-Benzo[1,3]dioxol-5-yl-5-pyridin-2-yl-1H-imidazol-2-yl)benzoic acid (prepared according to the method of Example 1) (379 mg; 0.98 mmol ) was suspended in dry dichloromethane (20 ml) and treated with oxalyl chloride (2 ml) and N,N-dimethylformamide (1 drop). This mixture was stirred at ambient temperature for 5 h then evaporated to dryness under reduced pressure to give the title compound as a yellow powder.

reactant | 4-(4-Benzo[1,3]dioxol-5-yl-5-pyridin-2-yl-1H-imidazol-2-yl)benzoic acid | O1COC2=C1C=CC(=C2)C=2N=C(NC2C2=NC=CC=C2)C2=CC=C(C(=O)O)C=C2 | C22H15N3O4
reactant | oxalyl chloride | 2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 4-(4-Benzo[1,3]dioxol-5-yl-5-pyridin-2-yl-1H-imidazol-2-yl)benzoyl chloride | O1COC2=C1C=CC(=C2)C=2N=C(NC2C2=NC=CC=C2)C2=CC=C(C(=O)Cl)C=C2 | C22H14ClN3O3
